US04847303
A mixture of Mg (10 mmol), 2-s-butyl-4-bromo-6-t-butyl-1-trimethylsiloxy benzene [which is prepared from 2-s-butyl-6-t-butylphenol by sequential reactions with bromine (CH2Cl2), 0° C., 15 min) and n-butyllithium (THF, -78° C., 15 min)/chlorotrimethylsilane (-78° C. to -25° C., 18 hr)] and a few drops of 1,2-dibromoethane in 25 ml THF is heated at reflux for two hr and then is added to an excess of pulverized dry ice. The resulting slurry is stirred for 1 hr, then added to a 300 ml portion of 1N NaOH and stirred for 1 hr. The resulting mixture is washed with 3×100 ml portions of ether, and then is made acidic with excess 3N HCl. The product is extracted with 3×200 ml portions of ethyl acetate. The combined organic portions are dried (MgSO4), filtered, and concentrated in vacuo to give 3 -s-butyl-4-hydroxy-5-t-butylbenzoic acid, used in the next step without further purification.

reactant | 2-s-butyl-4-bromo-6-t-butyl-1-trimethylsiloxy benzene | C(C)(CC)C1=C(C(=CC(=C1)Br)C(C)(C)C)O[Si](C)(C)C | C17H29BrOSi
reactant | 2-s-butyl-6-t-butylphenol | C(C)(CC)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | bromine | BrBr | Br2
reactant | n-butyllithium | C(CCC)[Li]
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | dry ice | C(=O)=O | CO2
reactant | NaOH | 1N | [OH-].[Na+]
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3 -s-butyl-4-hydroxy-5-t-butylbenzoic acid | C(C)(CC)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
